US07795267B2
2-[4-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]-1-piperidinyl]acetamide
A solution of hexahydro-1,1-diphenyl-7-[(4-piperidinyl)carbonyl]-3H-oxazolo[3,4-a]pyrazin-3-one hydrochloride (0.15 g, 0.34 mmol), potassium carbonate (0.12 g, 0.87 mmol), sodium iodide (51 mg, 0.34 mmol) and 2-chloroacetamide (38 mg, 0.41 mmol) in N,N-dimethylacetamide (3 mL) was stirred at room temperature for 26 hours. The reaction solution was diluted with water, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated and dried to a solid. The residue was recrystallized from ethanol to obtain the title compound (80 mg, yield 50%).

reactant | hexahydro-1,1-diphenyl-7-[(4-piperidinyl)carbonyl]-3H-oxazolo[3,4-a]pyrazin-3-one hydrochloride | 0.34 mmol, 0.15 g | Cl.C1(=CC=CC=C1)C1(OC(N2C1CN(CC2)C(=O)C2CCNCC2)=O)C2=CC=CC=C2
reactant | potassium carbonate | 0.87 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.34 mmol, 51 mg | [I-].[Na+]
reactant | 2-chloroacetamide | 0.41 mmol, 38 mg | ClCC(=O)N | C2H4ClNO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-[4-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]-1-piperidinyl]acetamide | 80 mg, yield 50% | O=C1OC(C2N1CCN(C2)C(=O)C2CCN(CC2)CC(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H30N4O4
